US07671043B2
9E: {4-[5-(4-Isobutylphenyl)-1,3,4-oxadiazol-2-yl]phenyl}methanol
Tetrabutylammonium fluoride (1.0 M in THF, 2.0 mL) was added to a solution of 2-[4-({[tert-butyl(dimethyl)silyl]oxy}methyl)phenyl]-5-(4-isobutylphenyl)-1,3,4-oxadiazole (0.50 g, 1.18 mmol) and THF (10 mL) and stirred at room temperature for 16 hours. The reaction mixture was diluted with ethyl acetate (100 mL), washed with water and brine, dried (Na2SO4,), filtered and concentrated in vacuo to give the title compound (0.322 g, 88% yield) as a white solid.

reactant | Tetrabutylammonium fluoride | 1.0 M, 2.0 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-[4-({[tert-butyl(dimethyl)silyl]oxy}methyl)phenyl]-5-(4-isobutylphenyl)-1,3,4-oxadiazole | 1.18 mmol, 0.50 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(C=C1)C=1OC(=NN1)C1=CC=C(C=C1)CC(C)C | C25H34N2O2Si
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | {4-[5-(4-Isobutylphenyl)-1,3,4-oxadiazol-2-yl]phenyl}methanol | 0.322 g, 88% yield | C(C(C)C)C1=CC=C(C=C1)C1=NN=C(O1)C1=CC=C(C=C1)CO | C19H20N2O2
